US08563565B2
(3) Synthesis of 3-bromo-5-fluoro-2-methoxy-4-methylpyridine
3-bromo-2-chloro-5-fluoro-4-methylpyridine (340 mg) was added to DMF (1.8 mL). Sodium methoxide (28% solution in methanol, 5.4 mL) was added to the solution, and the mixture was stirred at 80° C. for two hours. Water was added to the reaction mixture. The precipitated solid was collected by filtration to give the title compound (240 mg).

reactant | 3-bromo-2-chloro-5-fluoro-4-methylpyridine | 340 mg | BrC=1C(=NC=C(C1C)F)Cl | C6H4BrClFN
reactant | DMF | 1.8 mL | CN(C)C=O | C3H7NO
reactant | Sodium methoxide | 5.4 mL | C[O-].[Na+]
solvent | Water | O | H2O
product | 3-bromo-5-fluoro-2-methoxy-4-methylpyridine | 240 mg | BrC=1C(=NC=C(C1C)F)OC | C7H7BrFNO
